US06127579
A stirrer, thermometer and reflux condenser were mounted to a 100-ml three-necked flask which was filled with 10.0 g (0.059 mol) of trans-2-chloroindan-1-ol, 13 ml of monochlorobenzene and 4.72 g (0.066 mol) of ethyl vinyl ether. While the mixture was stirred, 5.6 g (0.03 mol) of p-toluenesulfonic acid was added and stirred for 3 hours at 25° C. to form trans-2-chloro-1-(1-ethoxyethoxy)indane in the reaction system. Moreover, to the reaction liquid was added 123.4 g (0.77 mol) of a 25% aqueous solution of NaOH and 1.44 g (0.0035 mol) of tetrabutylammonium bromide and the mixture was stirred for 30 hours at 103° C. to form 1-(1-ethoxyethoxy)indene in the reaction system. The reaction liquid was separated into a monochlorobenzene layer and a water layer. To the monochlorobenzene layer were added 20 ml of water and 0.65 g (0.0065 mol) of 98% sulfuric acid and the mixture was stirred for 1 hour at 78° C. After the reaction, the reaction liquid was separated into a monochlorobenzene layer and a water layer, and the monochlorobenzene layer was rinsed twice with 100 ml of water. The monochlorobenzene layer was dried with anhydrous sodium sulfate and then vacuum-concentrated to obtain 6.93 g of a black oil of 1-indanone (giving a yield of 88.4%). The purity of this oil according to gas chromatography (GC) was 63.9% (surface area percentage). The IR spectrum of this oil matches the IR spectrum of commercial 1-indanone.

reactant | trans-2-chloroindan-1-ol | 0.059 mol, 10.0 g | Cl[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9ClO
reactant | ethyl vinyl ether | 0.066 mol, 4.72 g | C(=C)OCC | C4H8O
reactant | p-toluenesulfonic acid | 0.03 mol, 5.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | monochlorobenzene | 13 ml | ClC1=CC=CC=C1 | C6H5Cl
product | trans-2-chloro-1-(1-ethoxyethoxy)indane | Cl[C@H]1[C@@H](C2=CC=CC=C2C1)OC(C)OCC | C13H17ClO2
